US07615569B2
A suspension of 4-(2,5-dioxo-imidazolidin-4-yl)-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (0.1 mmol), benzyl bromide (0.2 mmol), and potassium carbonate (0.1 mmol) in DMF (5 mL) was stirred at 65° C. for 4 h. The reaction mixture was acidified with 6N HCl aqueous solution and was stirred for 30 min before neutralized with saturated NaHCO3. The mixture was extracted with ethyl acetate and organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by reverse phase HPLC to give 4-(1-benzyl-2,5-dioxo-imidazolidin-4-yl)-N-thiazol-2-yl-benzenesulfonamide (0.04 mmol).

reactant | 4-(2,5-dioxo-imidazolidin-4-yl)-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 0.1 mmol | O=C1NC(C(N1)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC)=O | C14H14N4O5S2
reactant | benzyl bromide | 0.2 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.1 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 6N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(1-benzyl-2,5-dioxo-imidazolidin-4-yl)-N-thiazol-2-yl-benzenesulfonamide | 0.04 mmol | C(C1=CC=CC=C1)N1C(NC(C1=O)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C19H16N4O4S2
